US06310247B1
1H NMR(CDCl3) δ7.12 (2H,s), 6.98 (1H,s), 3.00 (1H,s), 2.29 (6H, s). 1-(3,5-dimethylphenyl)acetylene (11.3 g, 86.3 mmol) in dry THF (80 mL) was cooled in dry ice/acetone bath under an argon atmosphere. The n-BuLi (1.6M in hexanes, 65 mL, 104 mmol) was added slowly, followed by methyl chloroformate (11.4 g, 9.4 mL, 121 mmol) addition. The reaction vessel was transferred to an ice/water bath and stirred for 1 h. Saturated sodium bicarbonate solution and ethyl ether were added to the reaction mixture. The organic layer was washed with saturated brine, dried (Na2SO4), and concentrated to give crude 3-(3,5-dimethylphenyl)propynoic acid methyl ester which was used for next step.

reactant | 1-(3,5-dimethylphenyl)acetylene | 86.3 mmol, 11.3 g | CC=1C=C(C=C(C1)C)C#C | C10H10
reactant | n-BuLi | 104 mmol, 1.6M, 65 mL | [Li]CCCC
reactant | methyl chloroformate | 121 mmol, 9.4 mL, 11.4 g | ClC(=O)OC | C2H3ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-(3,5-dimethylphenyl)propynoic acid methyl ester | COC(C#CC1=CC(=CC(=C1)C)C)=O | C12H12O2
